US07687491B2
(9b) 4-Ethynylthiophene-2-carboxaldehyde
To a solution of 4-[(trimethylsilyl)ethynyl]thiophene-2-carboxaldehyde (3.3 g, 16 mmol) that was obtained in Example 9 (9a) in methanol (160 ml) was added potassium carbonate (4.3 g, 31 mmol) with stirring, and the resulting mixture was stirred at room temperature for 1 hour. After stirring, insoluble materials were removed by filtration, and the filtrate was evaporated in vacuo. The residue thus obtained was diluted with ethyl acetate, poured into water (100 ml) and extracted with ethyl acetate. The extract was washed with a saturated aqueous solution of sodium chloride and dried over magnesium sulfate. After filtration, the filtrate was evaporated in vacuo, and the crude product of the title compound thus obtained was purified by chromatography on a silica gel column using a mixed solvent of ethyl acetate and hexane (0:1 to 1:19) as the eluent to afford the title compound (1.5 g) in a yield of 69% as a brown solid.

reactant | 4-[(trimethylsilyl)ethynyl]thiophene-2-carboxaldehyde | 16 mmol, 3.3 g | C[Si](C)(C)C#CC=1C=C(SC1)C=O | C10H12OSSi
reactant | potassium carbonate | 31 mmol, 4.3 g | C([O-])([O-])=O.[K+].[K+]
reactant | water | 100 ml | O | H2O
solvent | methanol | 160 ml | CO | CH4O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 4-Ethynylthiophene-2-carboxaldehyde | yield of 69% | C(#C)C=1C=C(SC1)C=O | C7H4OS
